US07737166B2
N-(3′-Benzyloxy-5-cyano-2-fluoro-3-methoxy-6-methylbiphenyl-4-yl)-2,2,2-trifluoroacetamide (I-53)
Tetrakis(triphenylphosphine)palladium(0) (287 mg, 249 μmol) was added to an N,N-dimethylformamide (16.5 ml) suspension of N-(2-cyano-5-fluoro-4-iodo-6-methoxy-3-methylphenyl)-2,2,2-trifluoroacetamide (I-35) (500 mg, 1.24 mmol), 3-benzyloxyphenylboronic acid (425 mg, 1.87 mmol), potassium phosphate n-hydrate (74-78%, 713 mg, 2.49 mmol), followed by stirring at 95° C. for 5.5 hours. The reaction liquid was cooled, then ethyl acetate (100 ml) was added, followed by washing with saturated brine (50 ml×3), drying over anhydrous magnesium sulfate, concentration under reduced pressure. The residue was purified twice by silica gel column chromatography (n-hexane:ethyl acetate=4:1), (n-hexane:ethyl acetate=6:1) to obtain the entitled compound (415 mg, 73%) as a yellow solid.

reactant | N,N-dimethylformamide | 16.5 ml | CN(C=O)C | C3H7NO
reactant | N-(2-cyano-5-fluoro-4-iodo-6-methoxy-3-methylphenyl)-2,2,2-trifluoroacetamide | 1.24 mmol, 500 mg | C(#N)C1=C(C(=C(C(=C1C)I)F)OC)NC(C(F)(F)F)=O | C11H7F4IN2O2
reactant | 3-benzyloxyphenylboronic acid | 1.87 mmol, 425 mg | C(C1=CC=CC=C1)OC=1C=C(C=CC1)B(O)O | C13H13BO3
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 249 μmol, 287 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | N-(3′-Benzyloxy-5-cyano-2-fluoro-3-methoxy-6-methylbiphenyl-4-yl)-2,2,2-trifluoroacetamide | 415 mg, 73% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=C(C(=C(C(=C1C)C#N)NC(C(F)(F)F)=O)OC)F | C24H18F4N2O3
